US05366988
Synthesis of 1-(O-isopropyl-3-isopentylbenzohydroximoyl)-1H-1,2,4-triazole (Compound 3)
To 100 ml of N,N-dimethylformamide was added 1.2 g (4.9 mmol) of 1-(O-isopropyl-3-hydroxybenzohydroximoyl)-1H-1,2,4-triazole, 0.7 g (5.1 mmol) of isobutyl bromide, and 0.8 g (5.8 mmol) of potassium carbonate. The mixture was stirred for 1 hour at 80° C. to complete the reaction. The reaction mixture was allowed to sit and cool naturally. The cooled reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate. The solvent in the organic layer was then removed under reduced pressure. The residue was purified by column chromatography, thus obtaining 1.1 g (yield: 73%) of the desired produce having a refractive index of [nD20 ] 1.5341 at 20° C.

reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | 1-(O-isopropyl-3-hydroxybenzohydroximoyl)-1H-1,2,4-triazole | 4.9 mmol, 1.2 g | C(C)(C)ON=C(C1=CC(=CC=C1)O)N1N=CN=C1 | C12H14N4O2
reactant | isobutyl bromide | 5.1 mmol, 0.7 g | C(C(C)C)Br | C4H9Br
reactant | potassium carbonate | 5.8 mmol, 0.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 1-(O-isopropyl-3-isopentylbenzohydroximoyl)-1H-1,2,4-triazole | yield: 73% | C(C)(C)ON=C(C1=CC(=CC=C1)CCC(C)C)N1N=CN=C1 | C17H24N4O
